US06392104B1
To 25 mL of acetic acid were added the 10 mmole of the 1,3-dimethoxycarbonyladamantane, 1 mmole of NHPI and 0.05 mmole of V(AA)3, and the resultant mixture was stirred for 8 hours at 85° C., under an oxygen atmosphere. As a result, 1,3-dimethoxycarbonyl-5-adamantanol (yield 42%) and 1,3-methoxycarbonyl-5,7-adamantanediol (yield 36%) were formed. The conversion of 1,3-dimethoxycarbonyladamantane was 92%.

reactant | 1,3-dimethoxycarbonyladamantane | 10 mmole | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)OC | C14H20O4
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 1,3-dimethoxycarbonyl-5-adamantanol | yield 42% | COC(=O)C12CC3(CC(CC(C1)C3)(C2)O)C(=O)OC | C14H20O5
